US05508272
a) (R)-2-Amino-3-(4-thiazolyl)propanoic acid
A solution of 4N hydrochloric acid in dioxane (10 ml) was added to a solution of (R)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-3-(4-thiazolyl)propanoic acid (2.0 g, 7.3 mmol) in dioxane (2 ml). The reaction mixture was stirred at room temperature for 3 hours, concentrated in vacuo and the residue was dissolved in water (3 ml). The pH was adjusted to 6.5 with 1N sodium hydroxide and this solution was passed through 20 ml of Dowex® AG50(H+). The column was eluted with water (250 ml) followed by 2% pyridine in water (300 ml). The product containing fractions were concentrated in vacuo to yield 0.94 g of title product.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | (R)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-3-(4-thiazolyl)propanoic acid | 7.3 mmol, 2.0 g | CC(C)(OC(=O)N[C@@H](C(=O)O)CC=1N=CSC1)C | C11H16N2O4S
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (R)-2-Amino-3-(4-thiazolyl)propanoic acid | 0.94 g | N[C@@H](C(=O)O)CC=1N=CSC1 | C6H8N2O2S
